US06525052B2
2-[(Acetylimino-phenyl-methyl)-amino]-N-(4-cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-propionamide.
The title compound was prepared starting from thiobenzoyl acetamide and 2-amino-N-(4-cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-propionamide bis hydrochloride salt according to the procedure from Example 1, step b. MS, m/z 438=M+1.

reactant | thiobenzoyl acetamide | C(C1=CC=CC=C1)(=S)CC(=O)N | C9H9NOS
reactant | 2-amino-N-(4-cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-propionamide bis hydrochloride salt | Cl.Cl.NC(C(=O)NC1(CCN(CC1)C)C#N)CC1CCCCC1
product | 2-[(Acetylimino-phenyl-methyl)-amino]-N-(4-cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-propionamide | C(C)(=O)N=C(C1=CC=CC=C1)NC(C(=O)NC1(CCN(CC1)C)C#N)CC1CCCCC1 | C25H35N5O2
